US06562807B2
Step B: (R)-(2,2-Dimethyl-5-oxo-[1,3]dioxolan-4-ylmethyl)carbamic Acid Benzyl Ester
A mixture of (R)-(2,2-dimethyl-5-oxo-[1,3]dioxolan-4-yl)acetic acid (10.0 g, 57.41 mmol), triethylamine (10 mL, 68.89 mmol) and diphenylphosphoryl azide (14 mL, 63.15 mmol) in dry toluene (100 mL) was heated and stirred at 85° C. When the gas evolution had ceased stirring was continued for an additional hour. Dry benzyl alcohol (6.3 mL, 63.15 mmol) was added and heating was continued for 17 hours. After evaporation in vacuo, the residue was partitioned between dichloromethane, water and brine. The aqueous phase was further extracted twice with dichloromethane. The combined organic phases were washed twice with saturated sodium hydrogen carbonate. After drying (magnesium sulphate), filtration, and concentration in vacuo of the organic phase, the residue was subjected to flash column chromatography with dichloromethane as eluent. This afforded 6.4 g (40%) of (R)-(2,2-dimethyl-5-oxo-[1,3]dioxolan-4-ylmethyl)carbamic acid benzyl ester as an oil.

reactant | (R)-(2,2-dimethyl-5-oxo-[1,3]dioxolan-4-yl)acetic acid | 57.41 mmol, 10.0 g | CC1(OC([C@H](O1)CC(=O)O)=O)C | C7H10O5
reactant | triethylamine | 68.89 mmol, 10 mL | C(C)N(CC)CC | C6H15N
reactant | diphenylphosphoryl azide | 63.15 mmol, 14 mL | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | benzyl alcohol | 63.15 mmol, 6.3 mL | C(C1=CC=CC=C1)O | C7H8O
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | (R)-(2,2-Dimethyl-5-oxo-[1,3]dioxolan-4-ylmethyl)carbamic Acid Benzyl Ester | C(C1=CC=CC=C1)OC(NC[C@H]1OC(OC1=O)(C)C)=O | C14H17NO5
